US07202363B2
4-amino-N-({1-[2-(dimethylamino)-2-oxoethyl]pyrrolidin-2-yl}methyl)-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridine-7-carboxamide
A mixture of 4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)-N-(pyrrolidin-2-ylmethyl)thieno[3,2-c]pyridine-7-carboxamide (0.100 g, 0.18 mmol), dimethylaminoacetyl chloride hydrochloride (0.035 g, 0.217 mmol) and N,N-diisopropylethyl amine (0.046 g, 0.360 mmol) in dichloromethane (2 mL) was stirred at ambient temperature for 1 hour. The mixture was diluted with dichloromethane then extracted with 2N aqueous sodium hydroxide. The layers were separated and the organic solution was concentrated and the residue was purified by flash chromatography on silica gel to provide the title compound: 1H NMR (DMSO-d6, 400 MHz) δ 9.49 (s, 1H), 8.69 (t, 1H), 8.53 (d, 1H), 8.01 (m, 1H), 7.72 (d, 1H), 7.58 (m, 2H), 7.35 (m, 2H), 7.19 (s, 1H), 7.15 (t, 1H), 7.08 (d, 1H), 6.02 (bs, 2H), 4.25 (m, 1H), 4.04 (s, 3H), 3.91 (s, 3H), 3.48 (m, 2H), 3.10 (m, 2H), 2.26 (s, 6H), 1.7–2 (m, 4H); LCMS (Conditions a), Rt 2.75 min.; MS: MH+ 640

reactant | 4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)-N-(pyrrolidin-2-ylmethyl)thieno[3,2-c]pyridine-7-carboxamide | 0.18 mmol, 0.100 g | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C(=O)NCC2NCCC2 | C30H30N6O3S
reactant | dimethylaminoacetyl chloride hydrochloride | 0.217 mmol, 0.035 g | Cl.CN(C)CC(=O)Cl
reactant | N,N-diisopropylethyl amine | 0.360 mmol, 0.046 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-amino-N-({1-[2-(dimethylamino)-2-oxoethyl]pyrrolidin-2-yl}methyl)-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridine-7-carboxamide | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C(=O)NCC2N(CCC2)CC(=O)N(C)C | C34H37N7O4S
